US07932272B2
2,6-diamino-N-(5-phenoxy-thiophene-2-ylmethyl)-nicotinamide
To a solution of 2,6-diamino-nicotinic acid ethyl ester described in Preparation Example A-14 (18 mg, 0.1 mmol) in ethanol (10 mL) was added 1N sodium hydroxide aqueous solution (5 mL), and the solution was stirred for 1 hour 10 minutes under reflux. After cooling the reaction solution, the solution was neutralized with 1N hydrochloric acid and concentrated. The resulting crude product was suspended in N,N-dimethylformamide (3 mL), triethylamine (0.02 mL, 0.15 mmol), benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (65 mg, 0.15 mmol) and C-(5-phenoxy-thiophen-2-yl)-methylamine described in Preparation Example 26 (30 mg, 0.15 mmol) were added thereto, followed by stirring at room temperature for 19 hours 40 minutes. After the reaction was completed, reaction solution was poured into brine, and the solution was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate then concentrated, the obtained residue was purified by NH silica gel column chromatography (ethyl acetate), and the title compound (8.7 mg, 0.025mol, 25%) was obtained.

reactant | 2,6-diamino-nicotinic acid ethyl ester | C(C)OC(C1=C(N=C(C=C1)N)N)=O | C8H11N3O2
reactant | sodium hydroxide | 1N, 5 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | triethylamine | 0.15 mmol, 0.02 mL | C(C)N(CC)CC | C6H15N
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.15 mmol, 65 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | C-(5-phenoxy-thiophen-2-yl)-methylamine | O(C1=CC=CC=C1)C1=CC=C(S1)CN | C11H11NOS
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | brine | [Cl-].[Na+].O
product | 2,6-diamino-N-(5-phenoxy-thiophene-2-ylmethyl)-nicotinamide | 0.025mol, 8.7 mg, 25% | NC1=C(C(=O)NCC=2SC(=CC2)OC2=CC=CC=C2)C=CC(=N1)N | C17H16N4O2S
